US06656957B1
a) 2-[2-(3-Bromophenyl)-vinyl]-6-methyl-pyridine
A solution of 24 ml (200 mMol) of 2,6-dimethyl pyridine and 25.6 ml (207 mMol) of 3-bromobenzaidehyde in 38 ml of acetic anhydride is heated under reflux for 7.5 hours. The acetic anhydride is then evaporated in vacuo, and the residue is dissolved in 500 ml of 4N hydrochloric acid and twice extracted with 200 ml each of hexane. The water phase is then extracted four times with 300 ml each of tert.-butyl methyl ether. The combined organic phases are washed twice with 300 ml each of a saturated solution of NaHCO3 in water, then once with 300 ml of brine (300 ml), dried over sodium sulfate, filtrated and evaporated in vacuo yielding 4.2 g of the title compound as colorless crystals of melting point 58-590.

reactant | 2,6-dimethyl pyridine | 200 mMol, 24 ml | CC1=NC(=CC=C1)C | C7H9N
reactant | 3-bromobenzaidehyde | 207 mMol, 25.6 ml | BrC=1C=C(C=O)C=CC1 | C7H5BrO
solvent | acetic anhydride | 38 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[2-(3-Bromophenyl)-vinyl]-6-methyl-pyridine | 4.2 g | BrC=1C=C(C=CC1)C=CC1=NC(=CC=C1)C | C14H12BrN
